US04077982
A. preparation of 5-Hydroxy-2-(3-chlorophenyl)-1,3-dioxane
A mixture of 3-chlorobenzaldehyde (28.1 g, 0.2 mole), glycerol (18.4 g, 0.2 mole) and p-toluenesulfonic acid (0.1 g) in 150 ml of benzene was heated at reflux under a Dean-Stark apparatus until water was no longer collecting (3.6 ml). The solution was cooled, washed with 2% sodium bicarbonate solution (2 × 100 ml) and with water (2 × 100 ml). The washed solution was dried over magnesium sulfate and concentrated under reduced pressure. The oil remaining was distilled to give 18.1 g of colorless liquid which distilled at a pot temperature of 124°-128° C under 1 × 10-4 mm.

reactant | 3-chlorobenzaldehyde | 0.2 mole, 28.1 g | ClC=1C=C(C=O)C=CC1 | C7H5ClO
reactant | glycerol | 0.2 mole, 18.4 g | OCC(O)CO | C3H8O3
reactant | water | O | H2O
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
catalyst | p-toluenesulfonic acid | 0.1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 5-Hydroxy-2-(3-chlorophenyl)-1,3-dioxane | 18.1 g | OC1COC(OC1)C1=CC(=CC=C1)Cl | C10H11ClO3
